US07897627B2
Step 2: 2-Chloro-5,7-difluoro-benzothiazole
To a suspension of 2 g (9.841 mmol) 5,7-difluoro-benzothiazole-2-thiol in 10.7 mL (147.6 mmol) thionyl chloride was added drop wise 215 □L N,N-dimethylformamide at room temperature. The mixture was stirred at room temperature for 2 days. The solvent was removed in vacuo. The crude compound was purified with flash column chromatography on silica eluting with a gradient formed from n-heptane and ethyl acetate to provide 659 mg (32.6%) of the title compound as an off-white solid. MS(m/e): 205 (M+H+).

reactant | 5,7-difluoro-benzothiazole-2-thiol | 9.841 mmol, 2 g | FC=1C=C(C2=C(N=C(S2)S)C1)F | C7H3F2NS2
reactant | thionyl chloride | 147.6 mmol, 10.7 mL | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Chloro-5,7-difluoro-benzothiazole | 659 mg, 32.6% | ClC=1SC2=C(N1)C=C(C=C2F)F | C7H2ClF2NS
